US07348456B2
Step C: 3-(3-Bromophenyl)-4-(4-chlorophenyl)-3-methyl-2-butanone
To a solution of 3-(3-bromophenyl)-2-butanone (2.0 g, 8.8 mmol) in methylene chloride (100 mL) was added 4-chlorobenzyl chloride (1.4 g, 8.8 mmol), tetrabutylammonium iodide (0.16 g, 0.44 mmol) and cesium hydroxide monohydrate (5.9 g, 35 mmol). After stirring at room temperature for 3.5 h, the reaction mixture was poured into ethyl acetate (100 mL) and water (100 mL). The organic layer was separated and the aqueous layer extracted with ethyl acetate. The combined organic extracts were washed with brine, dried over magnesium sulfate, filtered, and concentrated to dryness to give the title compound. 1H NMR (400 M CD3OD): δ 7.5-7.1 (m, 4H), 7.08 (d, 2H), 6.68 (d, 2 H), 3.16 (ABq, 2H), 1.98 (s, 3H), 1.42 (s, 3H).

reactant | 3-(3-bromophenyl)-2-butanone | 8.8 mmol, 2.0 g | BrC=1C=C(C=CC1)C(C(C)=O)C | C10H11BrO
reactant | 4-chlorobenzyl chloride | 8.8 mmol, 1.4 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | cesium hydroxide monohydrate | 35 mmol, 5.9 g | O.[OH-].[Cs+]
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | tetrabutylammonium iodide | 0.44 mmol, 0.16 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 100 mL | O | H2O
product | 3-(3-Bromophenyl)-4-(4-chlorophenyl)-3-methyl-2-butanone | BrC=1C=C(C=CC1)C(C(C)=O)(CC1=CC=C(C=C1)Cl)C | C17H16BrClO
